US08008298B2
A solution of 2-methoxy-2-methyl-propionic acid (1.0 g, 8.46 mmol) in anhydrous dichloromethane (10 ml) was slowly treated with DCC (1M in DCM, 10.16 ml, 10.16 mmol), O,N-Dimethyl-hydroxylamine (991 mg, 10.16 mmol), DMAP (103 mg, 0.843 mmol), and TEA (1.42 ml, 10.16 mmol). The reaction mixture was allowed to stir at room temperature for 16 hours. The reaction mixture was partitioned between DCM/1N HCl. The organic layers were collected, dried over MgSO4, filtered, and concentrated. The crude product was purified by silica gel chromatography using 5-60% EtOAc in hexanes as eluant providing 200 mg (14.66%) of 2,N-dimethoxy-2,N-dimethyl-propionamide as a colorless oil.

reactant | 2-methoxy-2-methyl-propionic acid | 8.46 mmol, 1.0 g | COC(C(=O)O)(C)C | C5H10O3
reactant | DCC | 10.16 mmol, 1M, 10.16 ml | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | O,N-Dimethyl-hydroxylamine | 10.16 mmol, 991 mg | CONC | C2H7NO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
catalyst | DMAP | 0.843 mmol, 103 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2,N-dimethoxy-2,N-dimethyl-propionamide | 200 mg, 14.66% | COC(C(=O)N(C)OC)(C)C | C7H15NO3
